US08981084B2
(4-(4-Methylthiazol-2-yl)piperazin-1-yl)(3-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)phenyl)methanone
This compound was synthesized from 4-methyl-2-(piperazin-1-yl)thiazole and 3-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)benzoic acid as described for example 37 step 3 (90 mg, yield 39%) as yellow viscous liquid. 1H NMR (400 MHz, CDCl3) δ 8.23-8.19 (m, 2H), 7.67-7.61 (m, 2H), 6.20 (m, 1H), 3.94 (m, 2H), 3.57 (m, 6H), 2.26 (m, 3H). MS (ESI) m/z: Calculated for C18H16F3N5O2S: 423.10. found: 424.2 (M+H)+.

reactant | 4-methyl-2-(piperazin-1-yl)thiazole | CC=1N=C(SC1)N1CCNCC1 | C8H13N3S
reactant | 3-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)benzoic acid | FC(C1=NC(=NO1)C=1C=C(C(=O)O)C=CC1)(F)F | C10H5F3N2O3
product | (4-(4-Methylthiazol-2-yl)piperazin-1-yl)(3-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)phenyl)methanone | yield 39% | CC=1N=C(SC1)N1CCN(CC1)C(=O)C1=CC(=CC=C1)C1=NOC(=N1)C(F)(F)F | C18H16F3N5O2S
